US07696223B2
a) 2-(1-Benzyl-1H-pyrazol-4-yl)-4-{[(2,4-dimethoxy-benzyl)-ethoxycarbonylmethyl-amino]-methyl}-thiazole-5-carboxylic acid ethyl ester
Prepared from 2-bromo-4-{[(2,4-dimethoxy-benzyl)-ethoxycarbonylmethyl-amino]-methyl}-thiazole-5-carboxylic acid ethy ester, example 81(b), and 1-benzyl-1H-pyrazole-4-boronic acid under conditions analogous to experimental example 81(c). MS: (+) m/z 579.4 (M+1).

reactant | 2-bromo-4-{[(2,4-dimethoxy-benzyl)-ethoxycarbonylmethyl-amino]-methyl}-thiazole-5-carboxylic acid ethy ester | C(C)OC(=O)C1=C(N=C(S1)Br)CN(CC(=O)OCC)CC1=C(C=C(C=C1)OC)OC | C20H25BrN2O6S
reactant | 1-benzyl-1H-pyrazole-4-boronic acid | C(C1=CC=CC=C1)N1N=CC(=C1)B(O)O | C10H11BN2O2
product | 2-(1-Benzyl-1H-pyrazol-4-yl)-4-{[(2,4-dimethoxy-benzyl)-ethoxycarbonylmethyl-amino]-methyl}-thiazole-5-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(N=C(S1)C=1C=NN(C1)CC1=CC=CC=C1)CN(CC(=O)OCC)CC1=C(C=C(C=C1)OC)OC | C30H34N4O6S
